US04959173
Synthesis of (R)-4-n-octoxybiphenylcarboxylic acid 4-(6'-chloro-4'-methyldecyloxy)phenyl ester
0.65 g of 4-n-octoxybiphenylcarboxylic acid, 0.60 g of (R)-4-(6'-chloro-4'-methyldecyloxy)phenol, 0.04 g of N,N'-dicyclohexyl carbodiimide and 20 ml of dichloromethane were stirred for 3 hours at room temperature.

reactant | 4-n-octoxybiphenylcarboxylic acid | 0.65 g | C(CCCCCCC)OC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C21H26O3
reactant | (R)-4-(6'-chloro-4'-methyldecyloxy)phenol | 0.60 g | ClC(C[C@@H](CCCOC1=CC=C(C=C1)O)C)CCCC | C17H27ClO2
reactant | N,N'-dicyclohexyl carbodiimide | 0.04 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (R)-4-n-octoxybiphenylcarboxylic acid 4-(6'-chloro-4'-methyldecyloxy)phenyl ester | ClC(C[C@@H](CCCOC1=CC=C(C=C1)OC(=O)C=1C(=CC=C(C1)OCCCCCCCC)C1=CC=CC=C1)C)CCCC | C38H51ClO4
